US06579328B2
1-(2-Nitro-4-chlorophenoxy)-2,2,6,6-tetramethyl-4-hydroxypiperidine
The procedure of Example 1 is repeated using 4.31 g (25 mmol) of 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine, 7.73 g (75 mmol) of tert-butyl nitrite, 25 mg (0.25 mmol) of copper(II) flouride, 70 mL of pyridine and 5.61 g (32.5 mmol) of 4-chloro-2-nitroaniline at 70° C. The crude product obtained is purified by vacuum flash chromatography (70:30/heptane:ethyl acetate) to give 4.28 g of the title compound in 84.8% yield as a light yellow solid melting at 124-125.5° C. The structure is confirmed by 1Hnmr and elemental analysis.

reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 25 mmol, 4.31 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | tert-butyl nitrite | 75 mmol, 7.73 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 4-chloro-2-nitroaniline | 32.5 mmol, 5.61 g | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
catalyst | copper(II) flouride | 0.25 mmol, 25 mg | [Cu](F)F
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | 1-(2-Nitro-4-chlorophenoxy)-2,2,6,6-tetramethyl-4-hydroxypiperidine | 4.28 g, 84.8% yield | [N+](=O)([O-])C1=C(ON2C(CC(CC2(C)C)O)(C)C)C=CC(=C1)Cl | C15H21ClN2O4
